US07910735B2
Production of N-acetyl-N-{3-isobutyl-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)-ethyl]pheny}-3-methylpyrazine-2-carboxamide (compound No. 1-106)
Sodium hydride (32 mg, 60% by weight, 0.8 mmol) was suspended in THF (10 ml) and a THF (5 ml) solution of N-{3-isobutyl-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]pheny}-3-methylpyrazine-2-carboxamide (300 mg, 0.67 mmol) was added dropwise thereto. The reaction solution was stirred at room temperature for 30 minutes, and was added with a THF (2 ml) solution of acetyl chloride (63 mg, 0.8 mmol) and stirred overnight. The reaction solution was poured into a diluted HCl solution, followed by extracting with ethyl acetate, and washing with water. The solution was dried over magnesium sulfate, and concentrated under reduced pressure, and then the residue was purified by using silica gel chromatography (hexane:ethyl acetate=3:1) to obtain 0.10 g of the desired compound.

reactant | Sodium hydride | 0.8 mmol, 32 mg | [H-].[Na+]
reactant | N-{3-isobutyl-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]pheny}-3-methylpyrazine-2-carboxamide | 0.67 mmol, 300 mg | C(C(C)C)C=1C=C(C=CC1C(C(F)(F)F)(C(F)(F)F)OC)NC(=O)C1=NC=CN=C1C | C20H21F6N3O2
reactant | acetyl chloride | 0.8 mmol, 63 mg | C(C)(=O)Cl | C2H3ClO
reactant | HCl | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-acetyl-N-{3-isobutyl-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)-ethyl]pheny}-3-methylpyrazine-2-carboxamide | 0.10 g, Yield: 30% | C(C)(=O)N(C(=O)C1=NC=CN=C1C)C1=CC(=C(C=C1)C(C(F)(F)F)(C(F)(F)F)OC)CC(C)C | C22H23F6N3O3
